US06310107B1
2-[3-(N,N-Dimethylamino)propyl]-6-hydroxytetralin Hydrochloride
2-[3-(N,N-Dimethylamino)propyl]-6-methoxytetralin hydrochloride (3.6 g) was added to 48% hydrobromic acid (20 ml), and the reaction mixture was heated under reflux for 3 hours, and then left cooled. This was neutralized with an aqueous solution of 1 N sodium hydroxide, and an aqueous solution of 10% potassium carbonate was added thereto, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried, and concentrated. The residue was recrystallized from methanol-diisopropyl ether to obtain the entitled compound (2.0 g).

reactant | 2-[3-(N,N-Dimethylamino)propyl]-6-methoxytetralin hydrochloride | 3.6 g | Cl.CN(C)CCCC1CC2=CC=C(C=C2CC1)OC
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrobromic acid | 20 ml | Br | BrH
product | 2-[3-(N,N-Dimethylamino)propyl]-6-hydroxytetralin Hydrochloride | 2.0 g | Cl.CN(C)CCCC1CC2=CC=C(C=C2CC1)O | InChI=1S/C15H23NO.ClH/c1-16(2)9-3-4-12-5-6-14-11-15(17)8-7-13(14)10-12;/h7-8,11-12,17H,3-6,9-10H2,1-2H3;1H
